data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,7079,"CC(C)(C)O.CN(C)C1=CC=[N:1]C=C1.C[C:2](Cl)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5260,"CCC(C)C1=C2CN3C(=O)C4=C(C=C3C2=NC2=C1C=C(CCCC(C)C)C=C2)C(O)(CC)C(=[O:1])OC4.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4422,"CC(C)=CCC1=C(C=O)C(C=O)=C(O)C=C1O.CC[N:1](CC)CC.COC1=CC([O:2][H:3])=C(Cl)C(C)=C1Cl|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2798,"C[Si](C)(C)C[C:1]#[C:2]CCCC[C+:3](C)C|((1, 2), 3)"
train,pmechdb_split_0,0,8957,"CC1=C[C:1](N=NC2=CC=CC=C2)([H:2])[C+:3](N)C=C1.[Cl-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,3935,"CC[NH+:1](C(C)(C)[O-])[H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4779,"CCOC(=O)[C:1](=[CH:2]C(C1=CC=CC=C1)C(C1=NC2=C(C=CC=C2)C=C1)(C1=[N+](C2=C(F)C(F)=C(F)C(F)=C2F)N=C2C(F)CC(C(C)C)N21)[O:3][H:4])[O-:5].CC[NH+](C(C)C)C(C)C.F[B-](F)(F)F|(5, 1);((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,7702,"C[C:1](CCO)=[CH2:2].O=S(=O)(O)[O:3][H:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,4715,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CCOC(=O)C[C:1](CC(=O)OCC)([OH2+:2])[O:3]CCO|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1009,"C[O:1]C.[Cl][Ti:2]([Cl])([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,1159,"CCC1CC(C)C([CH:1]=[N+:2](C)C2=CC=CC=C2)C1C(C)=C[O-:3].C[NH2+]C1=CC=CC=C1.O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6114,"C1[CH2:1][O:2]1.CC=C[CH2:3][Li:4]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,3341,"COC1=C(O)C2=C(C=C1)CC1C3C[CH:1]([OH+:2]C)C(O)=CC23CCN1CCC1=CC=CC=C1|((1, 2), 2)"
train,pmechdb_split_0,0,9794,"CC(C)[C+:1](C)C.CC[OH:2]|(2, 1)"
train,pmechdb_split_0,0,5403,"C=C1CC(C(=O)OC)C[C:1]([O-:2])=[C:3](C)C1.C[O:4][H:5].[Na+]|(2, 1);((1, 3), 5);((5, 4), 4)"
train,pmechdb_split_0,0,6853,"CCCCCC(OCC1=CC=CC=C1)C1OC(=O)N2C(CC([O-])(Cl)[N+:1](CCCCO)(CC3=CC=CC=C3)[H:2])CC=CC12.O.[Na][OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7812,"C1CCC2=[N:1]CCCN2CC1.COC(=O)C1CC2C[CH:2]([H:3])[CH:4]([Br:5])CC2N1C(=O)OCC1=CC=CC=C1|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4942,"CC(=O)O[I:1](OC(C)=O)C1=CC=CC=C1.CCCC[N+](CCCC)(CCCC)CCCC.COCOC(=O)C1=C(OC)C2C#CC=CC#CC3N(C(=O)[O-])C4=C(C=C([O-:2])C=C4)C24OC34C1C|(2, 1)"
train,pmechdb_split_0,0,9412,"O=[N+]([O-])C1=CO[CH:1]=[CH:2]1.O=[S+:3](=O)O|((2, 1), 3)"
train,pmechdb_split_0,0,4635,"CC[CH2:1][Cl+:2][Al-]([Cl])([Cl])[Cl]|((1, 2), 2)"
train,pmechdb_split_0,0,3022,"C=C[CH:1]=[CH2:2].[H:3][OH2+:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1420,"COC1=C2OC3C(=[N+:1](N)[H:2])CCC4(O)C5CC(=C2C34CCN5C2=CC=CC=C2)C=C1.O.OCCOCCO.[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3437,"C=C[C:1](Cl)=[O:2].CC[SH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7919,"CC1=CC(C)=[N+:1]([H:2])C(C)=C1.CC1=CC2=C(CC(C)(C)[C:3]2=[C:4](OCC2=CC=CC=C2)[O-:5])O1.N#N|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,5947,"CC1=CC=C(CC(O)C2=CC=CC=C2)C=C1.N#[C:1][CH:2](C1=CC=CC=C1)[O-:3].O=C(CC1=CC=CC=C1)C1=CC=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8061,"CC(C1=CC=CC=C1)[NH2:1].CC1=CC=CC=C1.CCOC(=O)C([O-])[NH+:2](C(C)C1=CC=CC=C1)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,294,"O=C(CCC1=CC=CC=C1)[Cl:1].[Cl][Al:2]([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,9185,"C[C:1](C)=[S+:2]CC[SH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5758,"CC(CCC[NH2:1])OS(=O)(=O)C(F)(F)F.C[C:2](OC(=NC1CCCCC1)NC1CCCCC1)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5002,"COC1=C2OC3C(N=[N:1][H:2])CCC4(O)C5CC(=C2C34CCN5CC2=CC=CC=C2)C=C1.[K+].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3874,"C[C+:1]1CCCC(=O)[CH:2]1[H:3].O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,628,"CC(=O)[O-:1].NCC[NH+:2](C(O)(C(=O)C1=CC=CC=C1)C1=CC=CC=C1)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3582,"CCO[S+](C)[CH2:1][H:2].O=P(O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3033,"O=CC[CH:1](C1=CC=CC=C1)[OH2+:2]|((1, 2), 2)"
train,pmechdb_split_0,0,2599,"COC(C)=C(C)[O-:1].C[N+:2](C)(C)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9584,"C=C[C:1](OC(C)=O)=[O:2].CC[SH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3367,"C1=C[CH:1]=[CH:2][NH:3]1.O=C(C(F)(F)F)[O:4][H:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,1472,"C[NH2:1].[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3843,"CCCCC1=C(B2OC3=C(C=CC=C3)O2)C(C2=CC=CC=C2)=N[O+:1]1[CH3:2].[Cl-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6537,"CC(C)O[C:1](C)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8725,"CO[PH:1](OC)(N(C)C)[OH+:2]C|((1, 2), 2)"
train,pmechdb_split_0,0,302,"C1=CC=C([CH:1]=[O:2])C=C1.[CH2:3]=[CH:4][O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,6184,"O=S(Cl)[O:1][CH2:2]CCCl.[Cl-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5828,"CCN(CC)C(C)(O)[O:1]CC.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9302,"CC1=CC=C(S(=O)(=O)[O:1][CH:2]2CC(C3CCCCC3)CC(C3CCCCC3)C2OC(C)=[O:3])C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2984,"CC(C)CO[C:1](Cl)=[O:2].[NH3:3]|(3, 1);((1, 2), 2)"
